US05656629
Sodium (622 mg) was dissolved in ethanol (45 mL) and then 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (3.0 g, 13.5 mmol), followed by ethyl 4-trifluoromethylphenylacetate (6.27 g, 27 mmol) were added. The reaction mixture was refluxed overnight, cooled to room temperature, and the solvent was stripped. Water, followed by 2N HCl were added to the residue and the product was collected by filtration, recrystallized from ether and dried at 110° C. and 0.2 mm Hg to afford 3.03 g of 1-cyclopentyl-3-ethyl-6-(4-trifluoromethylphenylmethyl) pyrazolo[3,4-d]pyrimidin-4-one, m.p. 212°-213° C.

reactant | Sodium | 622 mg | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 13.5 mmol, 3.0 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | ethyl 4-trifluoromethylphenylacetate | 27 mmol, 6.27 g | FC(C1=CC=C(C=C1)CC(=O)OCC)(F)F | C11H11F3O2
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 45 mL | C(C)O | C2H6O
solvent | Water | O | H2O
product | 1-cyclopentyl-3-ethyl-6-(4-trifluoromethylphenylmethyl) pyrazolo[3,4-d]pyrimidin-4-one | 3.03 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)C(F)(F)F)CC | C20H21F3N4O
